US08563575B2
3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (79 mg) was added to a solution of 1-cyclopropyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (100 mg) and NaH (17.96 mg) in DMF (2 ml) at 100° C. The mixture was heated at 180° C. for 1 h under microwave irradiation. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 1-cyclopropyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (80 mg) as white crystals.

reactant | 3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 79 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | 1-cyclopropyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 100 mg | C1(CC1)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)O)=O | C15H13N3O2
reactant | NaH | 17.96 mg | [H-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-cyclopropyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 80 mg | C1(CC1)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C)=O | C22H18N6O2
